US05574163
Bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
To a 300 ml three-necked flask fitted with a stirrer, nitrogen inlet, thermometer, condenser and Dean-Stark trap is added 34.45 g (0.2 mol) of 1-oxyl-2,2,6,6-tetramethylpiperidin-4-ol, 23.0 g (0.1 mol) of dimethyl sebacate and 110 ml of heptane. The reaction mixture is heated to reflux to dry the contents of the flask and 15 ml of slightly turbid distillate is removed from the Dean-Stark trap. The mixture is cooled to about 75° C. and 0.5 g of tetraisopropyl orthotitanate and 15 ml of heptane is added to the flask. The mixture is heated to reflux and heating at reflux temperature 100°-105° C. is continued for 24 hours with methanol being collected in the Dean-Stark trap. Water (5 ml) is added and heating is continued till all or most of the water is removed. The reaction mixture is allowed to cool slightly, is filtered and washed with heptane. Orange crystals form on standing and are collected by filtration, and washed with heptane. The orange crystalline product melts at 99°-101° C.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidin-4-ol | 0.2 mol, 34.45 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | dimethyl sebacate | 0.1 mol, 23.0 g | C(CCCCCCCCC(=O)OC)(=O)OC | C12H22O4
solvent | heptane | 110 ml | CCCCCCC | C7H16
product | Bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)O)(C)C)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C28H52N2O6
